### PR TITLE
Homomorphism proofs for Routing (Closing #2)

### PR DESCRIPTION
**Pull request by VictorCMiraldo**
I just started working on closing #2, yet, because I had to do a few more changes than expected, I decided to make a draft with it so @conal can start giving some feedback on whether those changes were necessary or whether I'm using the constructions on the wrong way :)

### CODE REVIEW

File: Routing/Homomorphism.agda [hunk 1]
```diff
@@ -1,20 +1,44 @@
...
+swizzle-id-lemma `Bool      _ = ≡-refl
+swizzle-id-lemma (a₁ `⇛ a₂) x = ≡-refl
+swizzle-id-lemma (a₁ `× a₂) (x₁ , x₂)
+  = cong₂ _,_ (swizzle-id-lemma a₁ x₁) (swizzle-id-lemma a₂ x₂)
 
--- TODO:
+swizzle-∘-lemma : {b c : Ty} (a : Ty) {g : b ⇨ c} {f : a ⇨ b} (x : toObj a) →
+      swizzle (λ x₁ → unMk f (unMk g x₁)) x ≡
+      swizzle (unMk g) (swizzle (unMk f) x)
+swizzle-∘-lemma a x = {!!}
```
Comment (conal) [inline Routing/Homomorphism.agda:26]: If you quantify over `Swizzle`s instead of routing morphisms (wrapped `Swizzle`s), the lemma statement will be prettier.

Since the lemma are about rather than routing morphisms (though the distinction is minor), they perhaps belong in `Index.Properties` (since `Index` defines `swizzle`).

File: Routing/Homomorphism.agda [hunk 2]
```diff
@@ -1,20 +1,44 @@
...
 module Routing.Homomorphism where
 
 open import Functions.Raw
-
 open import Routing.Raw public
+open import Ty
+open import Index
 
-{-
+swizzle-id-lemma : (a : Ty) (x : toObj a) → swizzle {a = a} (λ y → y) x ≡ x
```
Comment (conal) [inline Routing/Homomorphism.agda:16]: I'd say `id` instead of `(λ y → y)` here.

File: Routing/Homomorphism.agda [hunk 3]
```diff
@@ -1,20 +1,44 @@
...
+swizzle-id-lemma `⊤         _ = ≡-refl
```
Comment (conal) [inline Routing/Homomorphism.agda:17]: I'd drop the "`-lemma`" for succinctness. The lemma-ness is in the type, right?

File: Routing/Homomorphism.agda [hunk 4]
```diff
@@ -1,20 +1,44 @@
...
 
 instance
 
-  categoryH : CategoryH _⇨_ Function 0ℓ
-  categoryH = {!!}
+  open import Categorical.Homomorphism
+
+  categoryH : CategoryH _⇨_ Function 0ℓ ⦃ Hₒ = ty-instances.homomorphismₒ ⦄
+  categoryH = record
+    { F-id = λ { {a = a} {x = x} → swizzle-id-lemma a x }
```
Comment (conal) [inline Routing/Homomorphism.agda:34]: I think here you can more simply write "`λ {a x} → swizzle-id-lemma a x`". Or better, "`λ {a} → swizzle-id-lemma a`", making `x` an implicit argument.

File: Routing/Homomorphism.agda (hunk 1 above)
Comment (conal) [reply Routing/Homomorphism.agda:26]: I think the value arguments can be deduced and hence conveniently made implicit arguments, resulting in more succinct definitions and uses.

File: Ty.agda [hunk 5]
```diff
@@ -13,6 +13,14 @@ data Ty : Set where
 
 open import Categorical.Homomorphism
 
+toObj : ∀{o}{obj : Set o} ⦃ _ : Products obj ⦄ ⦃ _ : Boolean obj ⦄ ⦃ _ : Exponentials obj ⦄
+  → Ty → obj
+toObj   `⊤     = ⊤
+toObj  `Bool   = Bool
+toObj (a `× b) = toObj a × toObj b
+toObj (a `⇛ b) = toObj a ⇛ toObj b
```
Comment (conal) [inline Ty.agda:21]: I think you can use `Fₒ a` in place of `toObj a`, and drop the top-level `toObj` definition. `Fₒ` is the object-mapping part of a functor and is used in many places in the project.

**Review by conal — CHANGES_REQUESTED** [review]
I'm glad to see you working on these homomorphism properties! The lovely, contravariant nature of the properties are delightful and worth bringing out in simple, general, poetic form.

File: Ty.agda (hunk 5 above)
Comment (VictorCMiraldo) [reply Ty.agda:21]: I see! That would make sense, I still have to internalize how you divided everything! :)

File: Routing/Homomorphism.agda [hunk 6]
```diff
@@ -13,25 +14,40 @@ open import Routing.Raw public
...
+swizzle-id `Bool      _ = ≡-refl
+swizzle-id (a₁ `⇛ a₂) _ = ≡-refl
+swizzle-id (a₁ `× a₂) (x₁ , x₂) = cong₂ _,_ (swizzle-id a₁ x₁) (swizzle-id a₂ x₂)
+
+lookup∘tabulate-id : {a : Ty}{f : Indexer Fₒ a} → ∀{z}{i : Index z a}
+                   → lookup {a = a} (tabulate {a = a} f) i ≡ f i
+lookup∘tabulate-id {f} = {!!}
+
+swizzle-∘ : {b c : Ty} (a : Ty) {g : Swizzle b c} {f : Swizzle a b} (x : Fₒ a)
+          → swizzle (f ∘ g) x ≡ (swizzle g ∘ swizzle f) x
```
Comment (conal) [inline Routing/Homomorphism.agda:31]: Indeed, these signatures do look prettier (more poetic). Another cosmetic tweak would be using `_≗_` from the standard library. Or, if you make the value parameter implicit (which I recommend here), then I think you can use `_≈_`:

``` agda
swizzle id ≈ id
swizzle (f ∘ g) ≈ swizzle g ∘ swizzle f
```

In other words, `swizzle` is a contravariant endofunctor. Wrap up `Swizzle` as a category, and we get a simple, covariant (non-endo) functor, which is what happens in `Routing`.

I’ve gotten a lot of useful insight from coaxing this kind of pattern starting from a vague whiff, step by step, until it expresses itself in its most clear, general, and simple form.

File: Routing/Homomorphism.agda (hunk 1 above)
Comment (VictorCMiraldo) [reply Routing/Homomorphism.agda]: I often leave arguments I need to do induction on as explicit, just because writing the proofs is easier. I'm happy either way

File: Routing/Homomorphism.agda (hunk 4 above)
Comment (VictorCMiraldo) [reply Routing/Homomorphism.agda]: That's better indeed

File: Routing/Homomorphism.agda (hunk 1 above)
Comment (conal) [reply Routing/Homomorphism.agda]: > I often leave arguments I need to do induction on as explicit, just because writing the proofs is easier.

Me, too, and in this case, I’d expect induction on `a : Ty` rather than on `x : Fₒ a`.

File: Routing/Homomorphism.agda (hunk 6 above)
Comment (conal) [reply Routing/Homomorphism.agda]: Hm! When I wrote out this proof in agda-machines, I used `≡-Reasoning` rather than `≈-Reasoning`.

It hadn’t occurred to met that Agda’s treatment of implicits might prevent us from using equivalence reasoning on functions with implicit arguments. If indeed it does, then maybe the function category should use explicit rather than implicit extensional equality. I switched from explicit to implicit for functions, and I’m afraid I don’t quite remember my motivation. Let’s explore this question in a different PR.

File: Routing/Homomorphism.agda (hunk 1 above)
Comment (VictorCMiraldo) [reply Routing/Homomorphism.agda]: Well, I'd be hoping to prove this without induction altogether :)

File: Routing/Homomorphism.agda (hunk 6 above)
Comment (VictorCMiraldo) [reply Routing/Homomorphism.agda]: I was thinking around these lines:
```
    swizzle (f ∘ g) x -- Note we need the x here to let Agda reduce the def for swizzle
  ≡⟨ refl && ∘-assoc ⟩
   tabulate ((lookup x ∘ f) ∘ g)
  ≡⟨ cong tabulate refl ⟩
   tabulate (id (lookup x ∘ f) ∘ g)
  ≡⟨ cong tabulate (fun-ext lookup-tabulate-id) ⟩
   tabulate (lookup (tabulate (lookup x ∘ f)) ∘ g)
  ≡⟨ ≡-refl ⟩
   swizzle g (tabulate (lookup x ∘ f))
  ∎
```

Comment (conal) [reply Routing/Homomorphism.agda]: > we need to pass a proof that the arguments to `tabulate` are equal as the second parameter of that `cong`; but the arguments to tabulate are themselves functions, which require function extensionality to be proven propositionally equal

Are you sure you need the functions to be (propositionally) *equal* rather than something weaker?

Comment (conal) [reply Routing/Homomorphism.agda]: (I think you're almost there!)

Comment (VictorCMiraldo) [reply Routing/Homomorphism.agda]: We don't need propositionally equal arguments to `tabulate`, pointwise equal is just fine. I did try that before, but backtracked after I kept getting some Agda errors on "missing instances", which threw me off from my actual mistake: I was missing a step on the proof! After careful pen-and-paper review, I found the missing step and fixed it :)

I still couldn't get rid of that pesky transitivity in the argument of `~~-tabulate` and I do have to stop for today.

Happy to address any further comments @conal !

**Review by conal — APPROVED** [review]
Looks good. Thanks for seeing it through!
